US07553965B2
2-Chloro-N-[3-(7,8-dimethoxy-2,2a,4,5-tetrahydro-1H-3-aza-acenaphthylen-3-yl)-propyl]-N-ethyl-benzenesulfonamide hydrochloride (111)
2-Chlorobenzenesulfonyl chloride (246.1 mg, 1.17 mmol) was added to a solution of Ethyl-[3-(7,8-Dimethoxy-2,2a,4,5-tetrahydro-1H-3-aza-acenaphthylen-3-yl)-propyl]-amine dihydro-chloride (400 mg, 1.06 mmol) and N,N′-diisopropylethylamine (1.01 ml, 6.4 mmol) in CH2Cl2 (20 mL) and the mixture was stirred overnight at room temperature. The resulting solution was washed with water (3×20 mL), dried over Na2SO4 and evaporated to dryness. The free base was dissolved in ethyl acetate and A 2.8 M solution of hydrogen chloride in ethanol (0.50 mL) was then added. The product was crystallized and collected by filtration, and vacuum dried to give a white solid (233 mg, 43%).

reactant | 2-Chlorobenzenesulfonyl chloride | 1.17 mmol, 246.1 mg | ClC1=C(C=CC=C1)S(=O)(=O)Cl | C6H4Cl2O2S
reactant | Ethyl-[3-(7,8-Dimethoxy-2,2a,4,5-tetrahydro-1H-3-aza-acenaphthylen-3-yl)-propyl]-amine dihydro-chloride | 1.06 mmol, 400 mg | Cl.Cl.C(C)NCCCN1C2CCC=3C(=C(C=C(CC1)C32)OC)OC
reactant | N,N′-diisopropylethylamine | 6.4 mmol, 1.01 ml | CCN(C(C)C)C(C)C | C8H19N
solvent | CH2Cl2 | 20 mL | C(Cl)Cl | CH2Cl2
product | 2-Chloro-N-[3-(7,8-dimethoxy-2,2a,4,5-tetrahydro-1H-3-aza-acenaphthylen-3-yl)-propyl]-N-ethyl-benzenesulfonamide hydrochloride | 233 mg, 43% | Cl.ClC1=C(C=CC=C1)S(=O)(=O)N(CC)CCCN1C2CCC=3C(=C(C=C(CC1)C32)OC)OC | InChI=1S/C24H31ClN2O4S.ClH/c1-4-27(32(28,29)22-9-6-5-8-19(22)25)14-7-13-26-15-12-17-16-21(30-2)24(31-3)18-10-11-20(26)23(17)18;/h5-6,8-9,16,20H,4,7,10-15H2,1-3H3;1H
